US06696467B2
In analogy to example 1, on reaction of 7-iodo-2-methyl-4-pyrrolidin-1-yl-quinoline with 3-metylthiophene-2-metylamine there was obtained (2-methyl-4-pyrrolidin-1-yl-quinolin-7-yl)-(3-methyl-thiophen-2-ylmethyl)-amine as yellow foam. ISP mass spectrum, m/e: 338.3 (M+1 calculated for C20H23N3S: 338).

reactant | 7-iodo-2-methyl-4-pyrrolidin-1-yl-quinoline | IC1=CC=C2C(=CC(=NC2=C1)C)N1CCCC1 | C14H15IN2
reactant | 3-metylthiophene-2-metylamine | CC1=C(SC=C1)CN | C6H9NS
product | (2-methyl-4-pyrrolidin-1-yl-quinolin-7-yl)-(3-methyl-thiophen-2-ylmethyl)-amine | CC1=NC2=CC(=CC=C2C(=C1)N1CCCC1)NCC=1SC=CC1C | C20H23N3S
